US08541455B2
To a mixture of 0.28 g (0.7 mmol) of (2-{5-[ethyl(phenyl)sulfamoyl]pyridin-2-yl}-3-oxo-2,3-dihydro-1H-pyrazol-4-yl)acetic acid, 0.61 mL (3.48 mmol) of DIEA and 0.8 mL (1.4 mmol) of methylamine (2N solution in THF) in 2 mL of DCM is added at 0° C. 0.33 g (1.04 mmol) of TBTU. After stirring for 3 hours at room temperature, the medium is taken up in 500 mL of DCM, washed successively with 0.1N HCl (2×40 mL), saturated NaHCO3 solution (2×40 mL) and brine (30 mL), dried over Na2SO4 and then concentrated under reduced pressure and purified by chromatography on a column of silica gel, eluting with a 95/5 DCM/MeOH mixture. 18 mg of 2-(2-{5-[ethyl(phenyl)sulfamoyl]pyridin-2-yl}-3-oxo-2,3-dihydro-1H-pyrazol-4-yl)-N-methylacetamide are obtained in the form of a brown powder.

reactant | (2-{5-[ethyl(phenyl)sulfamoyl]pyridin-2-yl}-3-oxo-2,3-dihydro-1H-pyrazol-4-yl)acetic acid | 0.7 mmol, 0.28 g | C(C)N(S(=O)(=O)C=1C=CC(=NC1)N1NC=C(C1=O)CC(=O)O)C1=CC=CC=C1 | C18H18N4O5S
reactant | DIEA | 3.48 mmol, 0.61 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | methylamine | 1.4 mmol, 2N, 0.8 mL | CN | CH5N
reactant | TBTU | 1.04 mmol, 0.33 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 500 mL | C(Cl)Cl | CH2Cl2
product | 2-(2-{5-[ethyl(phenyl)sulfamoyl]pyridin-2-yl}-3-oxo-2,3-dihydro-1H-pyrazol-4-yl)-N-methylacetamide | 18 mg, Yield=6% | C(C)N(S(=O)(=O)C=1C=CC(=NC1)N1NC=C(C1=O)CC(=O)NC)C1=CC=CC=C1 | C19H21N5O4S
